US05861402
C. Dimethyl 4-(2,6-dichlorophenyl)-2-methoxycarbonylmethyl-6-[2-(phenyl)ethyl]-1,4-dihydropyridine-3,5-dicarboxylate
A mixture of methyl 2-(2,6-dichlorophenylmethylidene)-3-oxo-5-phenylpentanoate (the crude product from the preceding experiment) and dimethyl 2-amino-1-propene-1,3-dicarboxylate (8.4 g, 48.5 mmol) was heated without solvent at 120° C. for 18 h. TLC showed a strong fluorescent spot at Rf=0.3 (dichloromethane/ethyl acetate: 24/1). This whole was chromatographed on silica gel (1.5 kg ) to yield 3.93 g of product. The slightly less pure product (2 g) was also obtained. 1H NMR (CDCl3) δ 7.23 (m, 7H), 6.99 (t, J=8.6 Hz, 1H), 6.93 (br. s, 1H), 5.98 (s, 1H), 3.70 (s, 3H), 3.68 (ABq, J=17Hz, 2H), 3.58 (s, 3H), 3.52 (s, 3H), 2.91 (m, 4H).

reactant | methyl 2-(2,6-dichlorophenylmethylidene)-3-oxo-5-phenylpentanoate | ClC1=C(C(=CC=C1)Cl)C=C(C(=O)OC)C(CCC1=CC=CC=C1)=O | C19H16Cl2O3
reactant | dimethyl 2-amino-1-propene-1,3-dicarboxylate | 48.5 mmol, 8.4 g | NC(=CC(=O)OC)CC(=O)OC | C7H11NO4
solvent | dichloromethane ethyl acetate | ClCCl.C(C)(=O)OCC
product | Dimethyl 4-(2,6-dichlorophenyl)-2-methoxycarbonylmethyl-6-[2-(phenyl)ethyl]-1,4-dihydropyridine-3,5-dicarboxylate | 3.93 g | ClC1=C(C(=CC=C1)Cl)C1C(=C(NC(=C1C(=O)OC)CCC1=CC=CC=C1)CC(=O)OC)C(=O)OC | C26H25Cl2NO6
